US06169197A
A liquid containing 42.6% by weight (hereinafter, “wt %”) of dibutyl carbonate, 11.4 wt % of butyl carbamate and 46.0 wt % of phenol was fed at the rate of 300 g/hr at 100° C. to a center portion of a distillation column made from glass provided with a vacuum jacket (filled Sulzer Labopacking, inner diameter 50 mmφ, height of filling portion: concentration portion 550 mm, recovery portion 550 mm) and the continuous distillation was performed under a top section pressure of 20 mmHg in the distillation column. The distillation column was operated in a reflux ratio of 3 and adjusted to distill out 265 g/hr of a distillate from the top section and thus steady state was maintained. In the distillation, a liquid containing 48.2 wt % of dibutyl carbonate and 51.8 wt % of phenol was obtained as a distillate of the top section. Butyl carbamate content in the liquid thus obtained was below 0.05 wt %. A liquid containing 98.0 wt % of butyl carbamate and 2.0 wt % of phenol was obtained at the rate of 35 g/hr from the bottom section. Dibutyl carbonate content in the liquid thus obtained was below 0.05 wt %. In this distillation, the top section temperature was 94° C. and the bottom section temperature was 118° C.

reactant | butyl carbamate | C(N)(OCCCC)=O | C5H11NO2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | Dibutyl carbonate | C(OCCCC)(OCCCC)=O | C9H18O3
